US03993658
A mixture of 6 parts of 2,4-diiminothiazolidine hydrochloride, 6 parts of 4,5,6,7-tetrahydro-1,3-diiminoisoindoline and 100 parts of anhydrous methyl alcohol was stirred and heated at reflux under an atmosphere of nitrogen for approximately 16 hours. The reaction was then cooled and filtered. The solid product collected by filtration was converted to the free base by treatment with a slight excess of a methyl alcohol solution of triethylamine and the product thus obtained was recrystallized from acetic acid. The resultant acetate salt was treated with dilute ammonium hydroxide and the product isolated to obtain in the free-base form 1-imino-4,5,6,7-tetrahydro-3(2,4-diimino-5-thiazolidinylidene)isoindoline as a greenish-brown powder melting at 215°-223° C (dec).

reactant | 2,4-diiminothiazolidine hydrochloride | Cl.N=C1SCC(N1)=N
reactant | 4,5,6,7-tetrahydro-1,3-diiminoisoindoline | N=C1NC(C=2CCCCC12)=N | C8H11N3
solvent | methyl alcohol | CO | CH4O
product | 1-imino-4,5,6,7-tetrahydro-3(2,4-diimino-5-thiazolidinylidene)isoindoline | N=C1NC(C=2CCCCC12)=C1C(NC(S1)=N)=N | C11H13N5S
